US07402592B2
Ethyl 6-(3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene-3-carboxylate
A mixture of ethyl 6-trifluoromethanesulfonyloxy-3-azabicyclo[3.3.1] non-6-ene-3-carboxylate (270 mg, 0.790 mmol) in 6 mL of dimethoxyethane, 1.5 mL of saturated sodium carbonate solution, 3-pyridineboronic acid (146 mg, 1.20 mmol) and lithium chloride (99 mg, 2.37 mmol) was degassed and placed under an argon atmosphere (5 min purge). Tetrakis(triphenyphosphine)palladium(0) (60 mg) was added, and the reaction mixture was heated at reflux for 4 h. It was then cooled and filtered though a plug of silica gel, eluting with ethyl acetate. Concentration of the filtrate and column chomatography of the residue, with a gradient of 0-5% methanol in dichloromethane, gave a yellow oil (130 mg, 60%).

reactant | ethyl 6-trifluoromethanesulfonyloxy-3-azabicyclo[3.3.1] non-6-ene-3-carboxylate | 0.790 mmol, 270 mg | FC(S(=O)(=O)OC=1C2CN(CC(CC1)C2)C(=O)OCC)(F)F | C12H16F3NO5S
reactant | 3-pyridineboronic acid | 1.20 mmol, 146 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | lithium chloride | 2.37 mmol, 99 mg | [Cl-].[Li+]
solvent | dimethoxyethane | 6 mL | C(OC)COC | C4H10O2
solvent | sodium carbonate | 1.5 mL | C([O-])([O-])=O.[Na+].[Na+]
product | Ethyl 6-(3-pyridinyl)-3-azabicyclo[3.3.1]non-6-ene-3-carboxylate | 130 mg, 60% | N1=CC(=CC=C1)C=1C2CN(CC(CC1)C2)C(=O)OCC | C16H20N2O2
